US09382236B2
5-[4-(2-Propylbenzoylamino)phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione
5-[4-(2-Propenylbenzoylamino)phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione (30 mg, 0.065 mmol) was dissolved in a mixture of methanol (0.3 mL) and tetrahydrofuran (0.3 mL), the atmosphere was substituted with argon, then the solution was added with 10% palladiumcarbon (3 mg), and the mixture was stirred for 16 hours under a hydrogen atmosphere. After completion of the reaction, the reaction mixture was filtered through Celite, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=100/1) to give the title compound (14 mg, yield 46%).

reactant | 5-[4-(2-Propenylbenzoylamino)phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | 0.065 mmol, 30 mg | C(=CC)C1=C(C(=O)NC2=CC=C(C=C2)N2C3=C(NC(CC2=O)=O)C2=CC=CC=C2C=C3)C=CC=C1 | C29H23N3O3
solvent | methanol | 0.3 mL | CO | CH4O
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
catalyst | palladiumcarbon | 3 mg | [C].[Pd]
product | 5-[4-(2-Propylbenzoylamino)phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | 14 mg, yield 46% | C(CC)C1=C(C(=O)NC2=CC=C(C=C2)N2C3=C(NC(CC2=O)=O)C2=CC=CC=C2C=C3)C=CC=C1 | C29H25N3O3
